US05217969
A mixture of ethyl 2-(5-fluoro-2-nitrophenoxy)acetate (11 g), benzylmercaptan (5.2 g), triethylamine (5.08 g) and DMF (50 ml) was stirred and heated to 80° C. for 7 hours. The mixture was cooled, poured into water and acidified by the addition of dilute aqueous hydrochloric acid. The mixture was extracted with diethyl ether. The organic phase was washed with water and with brine, dried (MgSO4) and evaporated to give ethyl 2-(5-benzylthio-2-nitrophenoxy)acetate (10.6 g, 68%) as a solid.

reactant | ethyl 2-(5-fluoro-2-nitrophenoxy)acetate | 11 g | FC=1C=CC(=C(OCC(=O)OCC)C1)[N+](=O)[O-] | C10H10FNO5
reactant | benzylmercaptan | 5.2 g | C(C1=CC=CC=C1)S | C7H8S
reactant | triethylamine | 5.08 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(5-benzylthio-2-nitrophenoxy)acetate | 10.6 g, 68% | C(C1=CC=CC=C1)SC=1C=CC(=C(OCC(=O)OCC)C1)[N+](=O)[O-] | C17H17NO5S
